US08309558B2
1-(1-methyl-1H-pyrazol-3-yl)cyclopropanamine.
Ethyl magnesium bromide (2.5 mol, 1 M in ether) was added at −78° C. to a solution of a 1-methyl-1H-pyrazole-3-carbonitrile (0.5 g, 1 mmol) and Ti(Oi-Pr)4 (1.1 mmol) in Et2O (5 mL). The yellow solution was stirred for 10 min. After the solution was warmed to ambient temperature (1 h), BF3OEt2 (2 mmol) was added. After the mixture was stirred for 1 h, 1 N HCl and ether were added. NaOH (10%) was added to the resulting two clear phases and the mixture was extracted with ether. The combined ether layers were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel (Et2O). 1H NMR (400 MHz, CDCl3): δ 0.94-1.05 (m, 4H), 2.32 (s, 2H), 3.83 (s, 3H), 5.92 (d, 1H), 7.23-7.24 (d, 1H). LCMS: (ES+) m/z observed 137.7.

reactant | Ethyl magnesium bromide | 2.5 mol, 1 M | C(C)[Mg]Br
reactant | 1-methyl-1H-pyrazole-3-carbonitrile | 1 mmol, 0.5 g | CN1N=C(C=C1)C#N | C5H5N3
reactant | HCl | 1 N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | Et2O | 5 mL | CCOCC | C4H10O
product | 1-(1-methyl-1H-pyrazol-3-yl)cyclopropanamine | CN1N=C(C=C1)C1(CC1)N | C7H11N3
